US07816387B2
Methyl 3-amino-5-[methyl(methylsulfonyl)amino]benzoate
A mixture of methyl 3-[methyl(methylsulfonyl)amino]-5-nitrobenzoate obtained in Reference Example 95.76 g (20 mmol), 10% Pd/C (50% wet) (1.50 g), methanol (80 mL) and ethyl acetate (80 mL) was stirred at room temperature under hydrogen atmosphere for 1.5 hours. The reaction solution was filtered on Celite and the solvent was evaporated to give 5.11 g (19.8 mmol) of the title compound (yield: 99%).

reactant | methyl 3-[methyl(methylsulfonyl)amino]-5-nitrobenzoate | CN(C=1C=C(C(=O)OC)C=C(C1)[N+](=O)[O-])S(=O)(=O)C | C10H12N2O6S
reactant | methanol | 80 mL | CO | CH4O
catalyst | Pd/C | 1.50 g | [Pd] | Pd
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
product | Methyl 3-amino-5-[methyl(methylsulfonyl)amino]benzoate | 19.8 mmol, 5.11 g, yield: 99% | NC=1C=C(C(=O)OC)C=C(C1)N(S(=O)(=O)C)C | C10H14N2O4S
